US08895745B2
Procedure AR—1-[3-(7-[1,2,4]Oxadiazol-5-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea
Hydroxylamine. HCl (30 mg, 0.43 mmol) was added to 3-{3-[3-(2,2,2-trifluoro-ethyl)-ureido]-phenyl}-imidazo[1,2-a]pyridine-7-carboxylic acid 1-dimethylamino-meth-(E)-ylideneamide (135 mg, 0.3 mmol) and 5N NaOH (75 μl, 0.38 mmol) in AcOH/H2O (7:3, 1 ml) at RT. The reaction mixture was stirred at room temperature for 2 h before being heated at 60° C. for 7 h. The reaction mixture was allowed to cool then the volatiles removed in vacuo. The residue was purified by preparative HPLC to afford the desired product (35 mg). MS: [M+H]+ 403.

reactant | 3-{3-[3-(2,2,2-trifluoro-ethyl)-ureido]-phenyl}-imidazo[1,2-a]pyridine-7-carboxylic acid 1-dimethylamino-meth-(E)-ylideneamide | 0.3 mmol, 135 mg | CN(\C=N\C(=O)C1=CC=2N(C=C1)C(=CN2)C2=CC(=CC=C2)NC(=O)NCC(F)(F)F)C | C20H19F3N6O2
reactant | NaOH | 0.38 mmol, 5N, 75 μl | [OH-].[Na+]
reactant | AcOH H2O | 1 ml | CC(=O)O.O
product | AR—1 [3-(7-[1,2,4]Oxadiazol-5-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea | 35 mg | CCC(C)CCC(C)(CC)O.O1N=CN=C1C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | InChI=1S/C18H13F3N6O2.C10H22O/c19-18(20,21)9-23-17(28)26-13-3-1-2-11(6-13)14-8-22-15-7-12(4-5-27(14)15)16-24-10-25-29-16;1-5-9(3)7-8-10(4,11)6-2/h1-8,10H,9H2,(H2,23,26,28);9,11H,5-8H2,1-4H3
